US09315458B2
A) 2-fluoro-3-methoxyphenol
To a solution of 2-fluoro-3-methoxyphenylboronic acid (30.4 g) in THF (300 mL) was added dropwise aqueous hydrogen peroxide (100 mL, 30% wt in water), and the mixture was heated with reflux for 1 hr. The reaction mixture was allowed to be cooled to room temperature, saturated aqueous sodium sulfite was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by combi flash (petroleum ether/ethyl acetate) to give the title compound (24.8 g).

reactant | 2-fluoro-3-methoxyphenylboronic acid | 30.4 g | FC1=C(C=CC=C1OC)B(O)O | C7H8BFO3
reactant | hydrogen peroxide | 100 mL | OO | H2O2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 2-fluoro-3-methoxyphenol | 24.8 g | FC1=C(C=CC=C1OC)O | C7H7FO2
